US05114968
Ethyl N-methoxalyl-2-[4-(4-fluorophenoxy)phenoxy]ethylcarbamate
With stirring and under nitrogen, a solution of methoxalyl chloride in 10 ml of 1,2-dichloroethane is added dropwise at +80° C. over 20 minutes to a solution of 10.0 g of ethyl 2-[4-(4-fluorophenoxy)phenoxy]ethylcarbamate and 0.3 g of 4-dimethylaminopyridine in 70 ml of 1,2-dichloroethane. The mixture is then stirred for 16 hours at +80° C. After cooling to room temperature, the reaction mixture is washed in succession with a cold 5% solution of sodium hydrogencarbonate, with 0.1N hydrochloric acid and, finally, with water, and dried over sodium sulfate. The 1,2-dichloroethane is completely removed by vacuum distillation. If desired, the crude ethyl N-methoxalyl-2-[4-(4-fluorophenoxy)phenoxy]ethylcarbamate can be purified by chromatography (eluant: 5:1 mixture of n-hexane/diethyl ether); nD20 : 1.5295.

reactant | methoxalyl chloride | C(=O)(C(=O)OC)Cl | C3H3ClO3
reactant | ethyl 2-[4-(4-fluorophenoxy)phenoxy]ethylcarbamate | 10.0 g | FC1=CC=C(OC2=CC=C(OCCNC(OCC)=O)C=C2)C=C1 | C17H18FNO4
solvent | 1,2-dichloroethane | 10 ml | ClCCCl | C2H4Cl2
catalyst | 4-dimethylaminopyridine | 0.3 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | 1,2-dichloroethane | 70 ml | ClCCCl | C2H4Cl2
product | Ethyl N-methoxalyl-2-[4-(4-fluorophenoxy)phenoxy]ethylcarbamate | C(=O)(C(=O)OC)N(C(OCC)=O)CCOC1=CC=C(C=C1)OC1=CC=C(C=C1)F | C20H20FNO7
